US04409112
The calcium dodecanedioate is prepared in situ in the carrier fluid by mixing together the necessary portions of Dodecanedioic acid and Calcium hydroxide in the carrier fluid. The mixture is stirred while heating. The heat is gradually increased to about 250 degrees F maximum until foaming ceases. The heating is then discontinued but the mixture is stirred until the temperature decreases to about 150 degrees F. This procedure reacts the calcium hydroxide and dodecanedioic acid to form calcium dodecanedioate and water, which is driven off during the heating cycle. The Dodecanedioic acid was obtained from the Petrochemicals Department Intermediates Division of E. I. DuPont de Nemours & Co. (Inc.). The Dodecanedioic acid has the following specifications:

reactant | Dodecanedioic acid | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
reactant | Calcium hydroxide | [OH-].[Ca+2].[OH-]
solvent | water | O | H2O
product | calcium dodecanedioate | C(CCCCCCCCCCC(=O)[O-])(=O)[O-].[Ca+2] | InChI=1S/C12H22O4.Ca/c13-11(14)9-7-5-3-1-2-4-6-8-10-12(15)16;/h1-10H2,(H,13,14)(H,15,16);/q;+2/p-2
